US04383945
Methyl 2-[(4R)-3-bromo-4-allyl-2-oxoazetidin-1-yl]-3-methyl-2-butenoate (840 mg) was dissolved in methylene chloride (6 ml) and cooled to 5° C. To this cooled solution were added acetic acid (0.5 ml) and zinc powder (0.60 g), and the mixture was allowed to warm to room temperature. After stirring for 30 minutes, the reaction mixture was diluted with ethyl acetate (6 ml) and filtered through a pad of Celite. The filtrate was further diluted with ethyl acetate (50 ml) and washed successively with water, dilute sodium bicarbonate and brine. Drying over magnesium sulfate and evaporation left an oil, which was chromatographed on silica gel (20 g) eluting with a mixture of benzene and acetone (5:1) to give methyl 2-[(4R)-4-allyl-2-oxoazetidin-1-yl]-3-methyl-2-butenoate (174 mg) as an oil.

reactant | Methyl 2-[(4R)-3-bromo-4-allyl-2-oxoazetidin-1-yl]-3-methyl-2-butenoate | 840 mg | BrC1C(N([C@@H]1CC=C)C(C(=O)OC)=C(C)C)=O | C12H16BrNO3
reactant | acetic acid | 0.5 ml | C(C)(=O)O | C2H4O2
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 6 ml | C(C)(=O)OCC | C4H8O2
catalyst | zinc | 0.60 g | [Zn] | Zn
product | methyl 2-[(4R)-4-allyl-2-oxoazetidin-1-yl]-3-methyl-2-butenoate | 174 mg | C(C=C)[C@@H]1CC(N1C(C(=O)OC)=C(C)C)=O | C12H17NO3
